US07629344B2
A 250 mL flask was charged with (3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester (15.0 g), PdCl2(dppf) (3.0 g), Zn(CN)2 (4.96 g), DMF (200 mL) and H2O (14 mL). The flask containing the resultant suspension was degassed and backfilled with nitrogen gas repeatedly for 5 minutes, followed by addition of Pd2(dba)3 (3.85 g) to the reaction mixture. The reaction mixture was heated under N2 at 90° C. for 16 h, cooled to room temperature, diluted with H2O (800 mL) and filtered. The collected solid was washed with toluene (10 mL) to provide (3-cyano-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester as a yellow solid.

reactant | (3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester | 15.0 g | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)I)=O | C12H14IN3O2
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 3.0 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Zn(CN)2 | 4.96 g | [C-]#N.[C-]#N.[Zn+2]
solvent | H2O | 14 mL | O | H2O
product | (3-cyano-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C#N)=O | C13H14N4O2
